US08242116B2
1-(3-Methoxypropyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole
The title compound was prepared from pyrazole-4-boronic acid pinacol ester and 1-bromo-3-methoxypropane according to Method AC (90° C.) and was isolated as an orange gum (quantitative) that was used without further purification. LCMS (ES+) 267.0 (M+H)+, RT 2.96 minutes (Method 1).

reactant | pyrazole-4-boronic acid pinacol ester | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
reactant | 1-bromo-3-methoxypropane | BrCCCOC | C4H9BrO
product | 1-(3-Methoxypropyl)-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | COCCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O3
